US06225311B1
To a solution of 0.453 g (1.0 mmol) of methyl 4-({4-[(5-azido-2-pentynyl)oxy]phenyl}sulfonyl)-2,2-dimethyl-3-thiomorpholine carboxylate in 7 mL of ether and 1 mL of THF was dropwise added 0.275 mL (1.1 mmol) of tributylphosphine at room temperature. The reaction was stirred for 1h and then cooled to −50° C. (acetonitrile/dry ice bath). A solution of 0.24 g (1.1 mmol) of di-tert-butyldicarbonate in 3.5 mL of ether was added and stirred at −50° C. for 2h. Then 3.5 mL of saturated solution of NaHCO3 was added and the reaction was let warm to room temperature. The resulting mixture was diluted with ethyl acetate, washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate:hexanes (1:6) to provide 0.21 g (40%) of methyl4-{[4-({5-[(tert-butoxycarbonyl)amino]-2-pentynyl}oxy)phenyl]sulfonyl}-2,2-dimethyl-3-thiomorpholine carboxylate as a colorless oil. Electrospray Mass Spec: 527.2 (M+H)+

reactant | methyl 4-({4-[(5-azido-2-pentynyl)oxy]phenyl}sulfonyl)-2,2-dimethyl-3-thiomorpholine carboxylate | 1.0 mmol, 0.453 g | N(=[N+]=[N-])CCC#CCOC1=CC=C(C=C1)S(=O)(=O)N1C(C(SCC1)(C)C)C(=O)OC | C19H24N4O5S2
reactant | tributylphosphine | 1.1 mmol, 0.275 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | acetonitrile dry ice | C(C)#N.C(=O)=O
reactant | di-tert-butyldicarbonate | 1.1 mmol, 0.24 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ether | 7 mL | CCOCC | C4H10O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ether | 3.5 mL | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl4-{[4-({5-[(tert-butoxycarbonyl)amino]-2-pentynyl}oxy)phenyl]sulfonyl}-2,2-dimethyl-3-thiomorpholine carboxylate | 0.21 g, 40% | COC(=O)C1N(CCSC1(C)C)S(=O)(=O)C1=CC=C(C=C1)OCC#CCCNC(=O)OC(C)(C)C | C24H34N2O7S2
